US04332816
3-(N-crotylamino)-1-(3,5-dichlorophenyl)-pyrrolidine-2,5-dione
To 13.6 g of 3-amino-1-(3,5-dichlorophenyl)pyrrolidine-2,5-dione hydrobromide in 100 ml of tetrahydrofurane are added, at 0° C., 12 ml of triethylamine. Then 6 ml of crotonyl chloride are added dropwise and the reaction mixture is stirred for a further 12 hours at room temperature. The solution is then filtered and the filtrate is concentrated. The residue is purified by column chromatography over silica gel with dichloromethane/petroleum ether (85:15) as eluant. The solvent is removed and the residue is recrystallised from ethyl acetate/petroleum ether. The colourless crystals melt at 107°-110° C.

reactant | 3-amino-1-(3,5-dichlorophenyl)pyrrolidine-2,5-dione hydrobromide | 13.6 g | Br.NC1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=O
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | crotonyl chloride | 6 ml | C(\C=C\C)(=O)Cl | C4H5ClO
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 3-(N-crotylamino)-1-(3,5-dichlorophenyl)-pyrrolidine-2,5-dione | C(C=CC)NC1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C14H14Cl2N2O2
